US07186715B2
Step 1: N-Cbz-4-[2-(N-boc-piperidin-4-yloxy)-phenyl]-piperazine
To a solution of 4-[2-(N-boc-piperidin-4-yloxy)-phenyl]-piperazine (1.5 g, 4.1 mol, 1.0 eq.) in DCM (20 mL) was added Et3N (0.8 mL, 5.74 mmol, 1.4 eq.), di-carbobenzoyloxy anhydride (1.4 g, 4.9 mmol, 1.2 eq.) and DMAP (25 mg, 0.2 mmol, 0.5 eq.). The mixture was stirred at r.t. overnight. The solution was diluted with DCM (100 mL) and washed with saturated aqueous NaHCO3 (50 mL) and brine (50 mL). The organic layer was dried (Na2SO4), filtered and concentrated to afford the title compound (2.03 g, 4.1 mmol, 100%).

reactant | 4-[2-(N-boc-piperidin-4-yloxy)-phenyl]-piperazine | 4.1 mol, 1.5 g, 1.0 eq. | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=C(C=CC=C1)N1CCNCC1 | C20H31N3O3
reactant | Et3N | 5.74 mmol, 0.8 mL, 1.4 eq. | CCN(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.2 mmol, 25 mg, 0.5 eq. | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | N-Cbz-4-[2-(N-boc-piperidin-4-yloxy)-phenyl]-piperazine | 4.1 mmol, 2.03 g, 100% | C(=O)(OCC1=CC=CC=C1)N1CCN(CC1)C1=C(C=CC=C1)OC1CCN(CC1)C(=O)OC(C)(C)C | C28H37N3O5
